Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingo-oophorectomy 
(removal of uterus, cervix, both fallopian tubes and ovaries)

 
History of Present Illness:
Ms. ___ is a  ___ who had been on hormone replacement 
therapy since the age of ___ and began experiencing vaginal 
spotting in the beginning of ___. A TVUS showed a 
heterogeneous 6mm endometrial stripe.  An endometrial biopsy on 
___ reported "focus of at least endometrial intraepithelial
neoplasia involving an endometrial polyp".  This was reviewed at 
___ who agreed with a diagnosis of EIN.  The patient was 
referred to GYN oncology for further evaluation and treatment 
recommendations. After counseling, she agreed with the 
recommendation for surgical management. 
 
Past Medical History:
Past Medical History: hypertension, hyperlipidemia, h/o +PPD, 
h/o
hepatitis A, anxiety, osteoarthritis, MVP, plantar fasciitis, 
dry
eyes

Past Surgical History: LSC tubal ligation (___), laser
conization of the cervix (___), HSC/D&C/PPY (___), breast
biopsy (___), Operative  laparoscopy  with  open  technique and
excision of pelvic peritoneal endometriosis/Endometrial ablation
via thermo-choice/Hysteroscopy and Dilatation and curettage
(___), cataract surgery (___)

                                    

Past OB History: G1P1, SVD x 1

Past GYN History:
- Menopause at ___
- +h/o condyloma and HSV
- abnormal pap 25+ years ago, last ___ NIL
- + HRT as above
- Denies history of fibroids or cysts

 
Social History:
___
Family History:
Denies family history of GYN cancer, breast cancer, colon cancer 
                                           

 
Physical Exam:
Gen: No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, and washings.
Please see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV pain 
medications. Her diet was advanced without difficulty and she 
was transitioned to oral pain medications. On post-operative day 
#1, her urine output was adequate so her Foley catheter was 
removed and she voided spontaneously. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Amitriptyline 25 mg PO QHS 
3. ___ 100  mg oral DAILY 
4. Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY 
5. Lidocaine 5% Patch 1 PTCH TD DAILY:PRN back pain 
6. LORazepam 0.5 mg PO QHS:PRN insomnia 
7. alpha lipoic acid 50 mg oral DAILY 
8. Tretinoin 0.025% Cream 1 Appl TP DAILY 
9. coenzyme Q10 10 mg PO DAILY 
10. ginkgo biloba 60 mg oral BID 
11. s-adenosylmethionine 200 mg oral DAILY 
12. Magnesium Citrate 100 mg PO BID 
13. Vitamin D ___ UNIT PO DAILY 
14. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH BID:PRN 
shortness of breath or wheezing 
15. Testosterone Cypionate 1 application topical DAILY 
16. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen [Tylophen] 500 mg ___ capsule(s) by mouth 
every six (6) hours Disp #*50 Capsule Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drive while taking, may cause drowsiness 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0 
5.  alpha lipoic acid 50 mg oral DAILY  
6.  Amitriptyline 25 mg PO QHS  
7.  Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY  
8.  coenzyme Q10 10 mg PO DAILY  
9.  Fish Oil (Omega 3) 1000 mg PO BID  
10.  ginkgo biloba 60 mg oral BID  
11.  Lidocaine 5% Patch 1 PTCH TD DAILY:PRN back pain  
12.  Lisinopril 5 mg PO DAILY  
13.  LORazepam 0.5 mg PO QHS:PRN insomnia  
14.  Magnesium Citrate 100 mg PO BID  
15.  s-adenosylmethionine 200 mg oral DAILY  
16.  Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH BID:PRN 
shortness of breath or wheezing  
17.  Testosterone Cypionate 1 application topical DAILY  
18.  Tretinoin 0.025% Cream 1 Appl TP DAILY  
19.  ___ 100  mg oral DAILY  
20.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial intraepithelial neoplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.

 
Followup Instructions:
___